US09284324B2
Preparation of methyl 1-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}-1H-pyrrole-3-carboxylate (Compound No. 1)
A suspension of 1-cyclobutyl-4-(4-iodophenoxy)piperidine (3 g; can be synthesized in accordance with the method described in WO2008072703), methyl 1H-pyrrole-3-carboxylic acid (1.75 g), N,N′-dimethylethylenediamine (0.592 g), copper iodide (0.32 g) and cesium carbonate (2.32 g) in toluene (8.4 mL) was stirred at 110° C. for 4 hours. The reaction mixture was left to cool to room temperature and, after adding chloroform, filtered through Celite (registered trademark). The filtrate was concentrated under reduced pressure and the resulting residue was purified by silica gel column chromatography (NH form silica gel; eluent: n-hexane/ethyl acetate=88/12-0/100) to give the titled compound as a colorless solid (1.42 g).

reactant | 1-cyclobutyl-4-(4-iodophenoxy)piperidine | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)I | C15H20INO
reactant | methyl 1H-pyrrole-3-carboxylic acid | 1.75 g | CN1C=C(C=C1)C(=O)O | C6H7NO2
reactant | N,N′-dimethylethylenediamine | 0.592 g | CNCCNC | C4H12N2
reactant | cesium carbonate | 2.32 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 8.4 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper iodide | 0.32 g | [Cu](I)I
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl 1-{4-[(1-cyclobutylpiperidin-4-yl)oxy]phenyl}-1H-pyrrole-3-carboxylate | 1.42 g | C1(CCC1)N1CCC(CC1)OC1=CC=C(C=C1)N1C=C(C=C1)C(=O)OC | C21H26N2O3
